US05958954
2,3-dihydro-6-bromo-(4H)-1-benzothiopyran-4-one
A solution of 3.63 g (13.9 mmol) of 3-(4-bromothiophenoxy)propionic acid in 60 ml methanesulfonic acid was heated to 75° C. for 1.5 hours. After cooling to room temperature the solution was diluted with H2O and extracted with EtOAc. The combined organic layers were washed with 2N aqueous NaOH, H2O, and saturated aqueous NaCl and then dried over MgSO4. Removal of the solvent under reduced pressure afforded a yellow solid from which the product was isolated by column chromatography (3% hexanes) as a pale-yellow solid. 1H NMR (CDCl3): δ 8.22 (1H, d, J=2.1 Hz), 7.48 1H, dd, J=2.1, 8.3 Hz), 7.17 (1H, d, J=8.5 Hz), 3.24 (2H, t, J=6.4 Hz), 2.98 (2H, t, J=6.7 Hz).

reactant | 3-(4-bromothiophenoxy)propionic acid | 13.9 mmol, 3.63 g | BrC1=CC=C(SCCC(=O)O)C=C1 | C9H9BrO2S
solvent | methanesulfonic acid | 60 ml | CS(=O)(=O)O | CH4O3S
solvent | H2O | O | H2O
product | 2,3-dihydro-6-bromo-(4H)-1-benzothiopyran-4-one | BrC=1C=CC2=C(C(CCS2)=O)C1 | C9H7BrOS
